US09029538B2
To a solution of 2-aminomethylene-malonic acid diethyl ester (0.75 g, 4.0 mmol) and phenyl isocyanate (0.57 g, 4.4 mmol) in 1,2-dichloroethane (20 mL) was added N,N-diisopropylethylamine (0.77 mL, 4.4 mmol) and heated at 100° C. 6 h. The mixture was cooled and filtered. The solids were purified by column chromatography with 0-5% MeOH in methylene chloride. This intermediate urea was suspended in ethanol (10 mL) and 21% NaOEt in ethanol (1.29 mL, 4.0 mmol) was added. After 18 h the solvent was removed under vacuum and the residue was slurred in ethyl acetate. The organics were washed with 1M citric acid solution, water and brine. The solvent was removed under vacuum and the residue was purified by chromatography with 0-5% MeOH in dichloromethane to give 0.50 g (40%). The ester was alkylated and hydrolyzed using methods for example 92 to give 1-ethyl-2,4-dioxo-3-phenyl-1,2,3,4-tetrahydro-pyrimidine-5-carboxylic acid. 1H NMR (DMSO) δ: 12.65 (bs, 1H), 8.82 (s, 1H), 7.54-7.43 (m, 3H), 7.32-7.29 (m, 2H), 4.02 (q, 2H, J=7.1 Hz), 1.26 (t, 3H, J=7.1 Hz).

reactant | 2-aminomethylene-malonic acid diethyl ester | 4.0 mmol, 0.75 g | C(C)OC(C(C(=O)OCC)=CN)=O | C8H13NO4
reactant | phenyl isocyanate | 4.4 mmol, 0.57 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | N,N-diisopropylethylamine | 4.4 mmol, 0.77 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | NaOEt | CC[O-].[Na+]
reactant | ethanol | 4.0 mmol, 1.29 mL | C(C)O | C2H6O
solvent | 1,2-dichloroethane | 20 mL | ClCCCl | C2H4Cl2
product | 1-ethyl-2,4-dioxo-3-phenyl-1,2,3,4-tetrahydro-pyrimidine-5-carboxylic acid | C(C)N1C(N(C(C(=C1)C(=O)O)=O)C1=CC=CC=C1)=O | C13H12N2O4
